US07842688B2
f) Benzyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 3.0 g of 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidin-3-ol in 30 ml of ethyl acetate is cooled to 0° C. with stirring and admixed with 30 ml of saturated aqueous sodium carbonate solution. At 0-5° C., 1.32 ml of benzyl formate are added dropwise. After 10 minutes, the reaction mixture is poured onto water (250 ml) and extracted with ethyl acetate (2×250 ml). The organic phases are washed with brine (1×250 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.35 (1:1 EtOAc-heptane); Rt=5.94. m.p. 71-73° C.

reactant | 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidin-3-ol | 3.0 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CNCC2)O)C=CC=C1 | C22H29NO4
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl formate | 1.32 ml | C(=O)OCC1=CC=CC=C1 | C8H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C30H35NO6
